US04152434
4-Benzyl-2-(1-phenyl-2,3-dihydro-benzimidazol-2-on-3-yl-methyl)-morpholine
The condensation of 0.1 mol of 1-phenyl-2,3-dihydro-benzimidazol-2-one and 0.1 mol of 2-chloromethyl-4-benzyl-morpholine in accordance with the procedure (a) of Example 1 gives, after evaporation of the solvent under reduced pressure, a pale pink solid which melts at about 90° C. and which is used as such for the subsequent operations.

reactant | 1-phenyl-2,3-dihydro-benzimidazol-2-one | 0.1 mol | C1(=CC=CC=C1)N1C(NC2=C1C=CC=C2)=O | C13H10N2O
reactant | 2-chloromethyl-4-benzyl-morpholine | 0.1 mol | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
product | 4-Benzyl-2-(1-phenyl-2,3-dihydro-benzimidazol-2-on-3-yl-methyl)-morpholine | C(C1=CC=CC=C1)N1CC(OCC1)CN1C(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O | C25H25N3O2
